US07030128B2
3-Bromo-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine (5.0 g, 13.5 mmol) and 2,4-diiodopyrimidine (prepared according to Leprete et al. in Tetrahedron, 2000, 56, 265-273) (5.6 g, 16.9 mmol) were reacted together as described in Example 39, Step 1. Purification by column chromatography on silica using 2.5% MeOH/CH2Cl2 gave 3-(2-iodopyrimidin-4-yl)-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine (4.97 g, 74%): 1H NMR (400 MHz, CDCl3) δ 9.95 (1H, d, J 7.3), 8.47 (1H, s), 8.35 (1H, d, J 5.4), 7.66 (1H, d, J 7.3), 7.59 (1H, d, J 5.4), 1.66 (6H, s), 1.00 (9H, t, J 8.0), 0.67 (6H, q, J 8.0).

reactant | 3-Bromo-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine | 13.5 mmol, 5.0 g | BrC1=CN=C2N1C=CC(=N2)C(C)(O[Si](CC)(CC)CC)C | C15H24BrN3OSi
reactant | 2,4-diiodopyrimidine | 16.9 mmol, 5.6 g | IC1=NC=CC(=N1)I | C4H2I2N2
product | 3-(2-iodopyrimidin-4-yl)-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine | 4.97 g, 74% | IC1=NC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(C)(O[Si](CC)(CC)CC)C | C19H26IN5OSi
